US08802673B2
To a stirred solution of (RS)-2-bromo-3-methyl-5-(oxiran-2-yl)pyridine (1.4 g) in THF (6 ml) was added 2-aminoethanol (3.92 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was then poured into EtOAc/THF (1:1) and the mixture was washed with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford (RS)-1-(6-bromo-5-methylpyridin-3-yl)-2-(2-hydroxyethylamino)ethanol (1.76 g) as an off-white solid which was used in the next step without further purification. MS (ISP): 277.0 ([{81Br}M+H]+), 275.0 ([{79Br}M+H]+), 258.9 ([{81Br}M+H—H2O]+), 257.0 ([{79Br}M+H—H2O]+).

reactant | (RS)-2-bromo-3-methyl-5-(oxiran-2-yl)pyridine | 1.4 g | BrC1=NC=C(C=C1C)C1OC1 | C8H8BrNO
reactant | 2-aminoethanol | 3.92 ml | NCCO | C2H7NO
reactant | EtOAc THF | CCOC(=O)C.C1CCOC1
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (RS)-1-(6-bromo-5-methylpyridin-3-yl)-2-(2-hydroxyethylamino)ethanol | 1.76 g | BrC1=C(C=C(C=N1)C(CNCCO)O)C | C10H15BrN2O2
